US04950648
A mixture of 2.06 g of ethyl 2-ethoxycarbonylaminonicotinate (m.p. 60°, obtainable by boiling ethyl 2-aminonicotinate with ethyl chloroformate for 5 h in the presence of N,N-diisopropylethylamine in toluene) and 2.54 g of 1-(2-aminoethyl)-4-p-fluorobenzoylpiperidine (Rf 0.43 on silica gel with butanol/ethanol/water/ethyl acetate/acetic acid 50:50:50:25:25) is heated at 190° for 1 h. The mixture is cooled and taken up in methanol and, on cooling, 3-[2-(4-p-fluorobenzoylpiperidino)ethyl]-2,4-dioxo-1,2,3,4-tetrahydropyrido[2,3-d]pyrimidine is obtained, m.p. 237°. Hydrochloride m.p. 297°-298°. Fumarate m.p. 253°-255°.

reactant | ethyl 2-ethoxycarbonylaminonicotinate | 2.06 g | C(C)OC(=O)NC1=C(C(=O)OCC)C=CC=N1 | C11H14N2O4
reactant | ethyl 2-aminonicotinate | NC1=C(C(=O)OCC)C=CC=N1 | C8H10N2O2
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-(2-aminoethyl)-4-p-fluorobenzoylpiperidine | 2.54 g | NCCN1CCC(CC1)C(C1=CC=C(C=C1)F)=O | C14H19FN2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | methanol | CO | CH4O
product | 3-[2-(4-p-fluorobenzoylpiperidino)ethyl]-2,4-dioxo-1,2,3,4-tetrahydropyrido[2,3-d]pyrimidine | FC1=CC=C(C(=O)C2CCN(CC2)CCN2C(NC3=C(C2=O)C=CC=N3)=O)C=C1 | C21H21FN4O3
